US04818270
Ethyl 2-(pyrimidinylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate
A reaction vessel was charged with 50 ml toluene, 4 g (16.4 mmol) ethyl 2-chloro-4-trifluoromethyl-5-oxazolecarboxylate and 3.12 g (32.8 mmol) 2-aminopyrimidine. The reaction mixture was heated at a temperature of 100°-110° C. for 16 hours. The mixture was cooled to room temperature, diluted with ethyl ether, washed with 5% hydrochloric acid, and then washed with large amounts of water. The ether portion was dried over magnesium sulfate and then concentrated under reduced pressure to yield 3.14 g of a yellow oily-solid material. This material was recrystallized from an ethanol-water solution to provide a yellow solid material which was air dried at room temperature, then triturated in warm hexane, and finally recrystallized from ethanol-water solution to yield 2.06 g of a yellow solid material (m.p. 199°-205° C.) identified in Table I.

reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl 2-chloro-4-trifluoromethyl-5-oxazolecarboxylate | 16.4 mmol, 4 g | ClC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5ClF3NO3
reactant | 2-aminopyrimidine | 32.8 mmol, 3.12 g | NC1=NC=CC=N1 | C4H5N3
solvent | ethyl ether | C(C)OCC | C4H10O
product | Ethyl 2-(pyrimidinylamino)-4-(trifluoromethyl)-5-oxazolecarboxylate | 3.14 g | N1=C(N=CC=C1)NC=1OC(=C(N1)C(F)(F)F)C(=O)OCC | C11H9F3N4O3
